US08557809B2
Step B: Preparation of (R)-1-(2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-3-amine
(R)-tert-butyl 1-(2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-3-ylcarbamate (0.030 g, 0.067 mmol) was added to a 1:1 TFA-DCM and stirred for about 2 hours, at which time the reaction appeared complete by LC/TLC. The crude mixture was evaporated and purified by flash column chromatography (Horizon, using a gradient elution of 5% NH4 in MeOH/DCM). The desired product was isolated as a light yellow solid (10 mg; 43% yield). MS ESI (+) m/z 345.2 (M+1) detected.

reactant | (R)-tert-butyl 1-(2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-3-ylcarbamate | 0.067 mmol, 0.030 g | N=1N=C(N2C1C=CC=C2)C2=NC1=C(C=CC=C1C=C2)N2C[C@@H](CCC2)NC(OC(C)(C)C)=O | C25H28N6O2
reactant | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (R)-1-(2-([1,2,4]triazolo[4,3-a]pyridin-3-yl)quinolin-8-yl)piperidin-3-amine | 43% yield | N=1N=C(N2C1C=CC=C2)C2=NC1=C(C=CC=C1C=C2)N2C[C@@H](CCC2)N | C20H20N6
